US04001418
A stirred solution of 1'-cyclobutylmethyl-4-methoxythioxanthene-9-spiro-4'-piperidine hydrochloride (600 mg.) in dry methylene chloride (12 ml.) in an atmosphere of nitrogen, protected from light using aluminium foil and at -10° C. (carbontetrachloride/dry-ice bath), is treated with boron tribromide (0.6 ml.) in one portion. The reaction temperature is allowed to rise to ambient temperature and stirring is continued for 1.5 hours. The suspension is cooled in ice, treated dropwise with 2N--NaOH solution until solution is complete. The methylene chloride is distilled off in vacuo and the solution neutralised with glacial acetic acid. The pink solid is filtered off, washed with water and dried in vacuo over phosphorous pentoxide at 60° C. The solid is suspended in hot ethanol, and treated with ethereal hydrochloric acid, causing the solid to dissolve. The hydrochloride crystallises almost immediately to give 1'-cyclobutylmethyl-4-hydroxythioxanthene-9-spiro-4'-piperidine hydrochloride hemihydrate, m.p. 270° C. (decomposition).

reactant | 1'-cyclobutylmethyl-4-methoxythioxanthene-9-spiro-4'-piperidine hydrochloride | 600 mg | Cl.C1(CCC1)CN1CCC2(CC1)C1=CC=CC=C1SC=1C(=CC=CC12)OC
reactant | aluminium | [Al] | Al
reactant | carbontetrachloride dry-ice | C(Cl)(Cl)(Cl)Cl.C(=O)=O
reactant | boron tribromide | 0.6 ml | B(Br)(Br)Br | BBr3
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 1'-cyclobutylmethyl-4-hydroxythioxanthene-9-spiro-4'-piperidine hydrochloride hemihydrate | O.Cl.C1(CCC1)CN1CCC2(CC1)C1=CC=CC=C1SC=1C(=CC=CC12)O.C1(CCC1)CN1CCC2(CC1)C1=CC=CC=C1SC=1C(=CC=CC12)O.Cl | InChI=1S/2C22H25NOS.2ClH.H2O/c2*24-19-9-4-8-18-21(19)25-20-10-2-1-7-17(20)22(18)11-13-23(14-12-22)15-16-5-3-6-16;;;/h2*1-2,4,7-10,16,24H,3,5-6,11-15H2;2*1H;1H2
